US04062861
To a suspension of 5-methyl-3-isoxazolyl isocyanate (1.71 g) in benzene (46 ml), allyl alcohol (0.88 g) is added, and the resultant mixture is refluxed for 3 hours. After cooling, the reaction mixture is evaporated to remove the solvent, whereby allyl N-(5-methyl-3 -isoxazolyl)carbamate (2.38 g) is obtained. This substance is recrystallized from cyclohexane to give crystals melting at 76.5° to 77.5° C.

reactant | 5-methyl-3-isoxazolyl isocyanate | 1.71 g | CC1=CC(=NO1)N=C=O | C5H4N2O2
reactant | allyl alcohol | 0.88 g | C(C=C)O | C3H6O
reactant | benzene | 46 ml | C1=CC=CC=C1 | C6H6
product | allyl N-(5-methyl-3 -isoxazolyl)carbamate | 2.38 g | CC1=CC(=NO1)NC(OCC=C)=O | C8H10N2O3
